### PR TITLE
[Merged by Bors] - feat: add more APIs for the first derivative test

### PR DESCRIPTION
**Pull request by CoolRmal**
The derivative test in Mathlib right now only says whether a point is local maximum. This is hard to use in practice (for example in the [PNT](https://github.com/AlexKontorovich/PrimeNumberTheoremAnd) project) as we sometimes want to show that a point is a maximum on some interval. This PR adds more APIs for the first derivative test to resolve this issue.

Co-authored-by: Louis Liu @Deep0Thinking 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/DerivativeTest.lean [hunk 1]
```diff
@@ -51,39 +51,285 @@ public section
...
+  intro x hx
+  by_cases! hxb : x ≤ b
+  · exact monotoneOn_of_deriv_nonneg (convex_Iic b) (continuousOn_Iic hb hd₀)
+      (by simp_all) (by simp_all) hxb (by grind) hxb
+  · exact antitoneOn_of_deriv_nonpos (convex_Ico b c) (continuousOn_Ico (by grind) hb hd₁)
+      (by simp_all) (by simp_all) (by grind) (by grind) hxb.le
+
+/-- Suppose `f : ℝ → ℝ` is continuous at `b` and `c`, the derivative `f'` is nonnegative on
+`(-∞, b)` and nonpositive on `(b, c)`. Then `f` attains its maximum on `(-∞, c]` at `b`. -/
+lemma isMaxOn_of_deriv_Iic {f : ℝ → ℝ} {b c : ℝ} (hb : ContinuousAt f b) (hc : ContinuousAt f c)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Calculus/DerivativeTest.lean]:
```suggestion
lemma isMaxOn_Iic_of_deriv {f : ℝ → ℝ} {b c : ℝ} (hb : ContinuousAt f b) (hc : ContinuousAt f c)
```
seems better, no? Same everywhere else

File: Mathlib/Analysis/Calculus/DerivativeTest.lean [hunk 2]
```diff
@@ -51,39 +51,285 @@ public section
...
+    (antitoneOn_of_deriv_nonpos (convex_Ici b) (continuousOn_Ici hb hd₁) (by simp_all)
+      (by simp_all))
 
 /-- The First-Derivative Test from calculus, maxima version.
-Suppose `a < b < c`, `f : ℝ → ℝ` is continuous at `b`,
-the derivative `f'` is nonnegative on `(a,b)`, and
-the derivative `f'` is nonpositive on `(b,c)`. Then `f` has a local maximum at `a`. -/
+Suppose `a < b < c`, `f : ℝ → ℝ` is continuous at `b`, the derivative `f'` is nonnegative on `(a,b)`
+and nonpositive on `(b,c)`. Then `f` has a local maximum at `b`. -/
 lemma isLocalMax_of_deriv_Ioo {f : ℝ → ℝ} {a b c : ℝ} (g₀ : a < b) (g₁ : b < c)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Calculus/DerivativeTest.lean:186]: Do you think we even need these lemmas now? They are direct corollaries of your new lemmas

File: Mathlib/Topology/Order/OrderClosedExtr.lean [hunk 3]
```diff
@@ -21,16 +21,150 @@ and its dual.
...
 
 open Set Topology Filter
 
+variable {α β : Type*} [LinearOrder α] [Preorder β] {s : Set α} {a b c : α} {f : α → β}
+
+/-- If `a` is an element of a set `s`, and `f` is monotone on `s ∩ (-∞, a]` and antitone on
+`s ∩ [a, ∞)`, then the maximum of `f` on `s` is attained at `a`. -/
+lemma isMaxOn_of_mono_anti (ha : a ∈ s) (h₀ : MonotoneOn f (s ∩ Set.Iic a))
+    (h₁ : AntitoneOn f (s ∩ Set.Ici a)) : IsMaxOn f s a :=
+  fun x _ => by rcases le_total x a <;> aesop
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/OrderClosedExtr.lean]: These lemmas have nothing to do with topology. Also I don't understand why you are introducing them since you aren't using them in your new topological lemmas

File: Mathlib/Analysis/Calculus/DerivativeTest.lean (hunk 2 above)
Comment (CoolRmal) [reply Mathlib/Analysis/Calculus/DerivativeTest.lean:186]: I think it is still nice to keep these lemmas as some theorems in analysis only require local extrema in their assumptions.

File: Mathlib/Topology/Order/OrderClosedExtr.lean (hunk 3 above)
Comment (CoolRmal) [reply Mathlib/Topology/Order/OrderClosedExtr.lean]: I moved these lemmas into Mathlib/Order/Filter/Extr and use them to golf the proof of theorems in Mathlib/Analysis/Calculus/DerivativeTest

File: Mathlib/Analysis/Calculus/DerivativeTest.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Calculus/DerivativeTest.lean:186]: Sure, but as a general rule one only adds a lemma when its assumptions are used at least twice in its proof. These lemmas fail this test, which indicates that they could reasonably be removed

File: Mathlib/Order/Filter/Extr.lean [hunk 4]
```diff
@@ -546,6 +546,144 @@ theorem IsMaxOn.max (hf : IsMaxOn f s a) (hg : IsMaxOn g s a) :
...
+attained at `b`. -/
+lemma isMinOn_Ioo_of_anti_mono (h₀ : AntitoneOn f (Ioc a b)) (h₁ : MonotoneOn f (Ico b c)) :
+    IsMinOn f (Ioo a c) b :=
+  isMaxOn_Ioo_of_mono_anti (β := βᵒᵈ) h₀ h₁
+
+/-- If `f` is monotone on `[a, b]` and antitone on `[b,c)`, then the maximum of `f` on `[a, c)` is
+attained at `b`. -/
+lemma isMaxOn_Ico_of_mono_anti
+    (h₀ : MonotoneOn f (Icc a b))
+    (h₁ : AntitoneOn f (Ico b c)) : IsMaxOn f (Ico a c) b := by
```
Comment (YaelDillies) [inline Mathlib/Order/Filter/Extr.lean]: Can you be consistent with your formatting?
```suggestion
lemma isMaxOn_Ico_of_mono_anti (h₀ : MonotoneOn f (Icc a b)) (h₁ : AntitoneOn f (Ico b c)) :
    IsMaxOn f (Ico a c) b := by
```

File: Mathlib/Order/Filter/Extr.lean [hunk 5]
```diff
@@ -546,6 +546,144 @@ theorem IsMaxOn.max (hf : IsMaxOn f s a) (hg : IsMaxOn g s a) :
     IsMaxOn (fun x => max (f x) (g x)) s a :=
   IsMaxFilter.max hf hg
 
+/-! ### Extrema from monotonicity and antitonicity -/
+
+
+variable {β : Type*} [LinearOrder α] [Preorder β] {a b c : α} {f : α → β}
```
Comment (YaelDillies) [inline Mathlib/Order/Filter/Extr.lean]:
```suggestion
variable {β : Type*} [LinearOrder α] [Preorder β] {a b c : α} {f : α → β}
```

File: Mathlib/Order/Filter/Extr.lean
Comment (YaelDillies) [inline Mathlib/Order/Filter/Extr.lean:1]: Sorry but I really don't see the point of these lemmas. Why is `IsMaxOn` even a thing given that we have `MaximalFor` which is the more useful predicate and also more conveniently located?

Comment (Deep0Thinking) [reply Mathlib/Order/Filter/Extr.lean:1]: Thank you for the review! I think we should keep these lemmas, as `IsMaxOn f s b` does not require `b ∈ s` (for the lemmas like `isMaxOn_Ioo_...`, the point `b` may equal `a` or `c`, so `b ∉ Ioo a c`). But `MaximalFor` requires the hypothesis that `b ∈ s`.

Comment (CoolRmal) [reply Mathlib/Order/Filter/Extr.lean:1]: Here are some additional arguments.
1. I think these lemmas are useful. They can be used to discuss the extrema of a function `f : ℝ → ℝ` (e.g.[unimodal](https://en.wikipedia.org/wiki/Unimodality) or [multimodal probability distributions](https://en.wikipedia.org/wiki/Multimodal_distribution)) or the one of a sequence `x : ℕ → ℝ` (e.g. [Maximum Value of a Poisson Distribution](https://math.stackexchange.com/questions/2184802/maximum-value-of-a-poisson-distribution)). 
2. I think the theorem [isMaxOn_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Extr.html#isMaxOn_iff) is useful in more elementary mathematics (the kind of math that you may encounter in the hyperlinks I provided above), whereas it seems to makes more sense to use `MaximalFor` in contexts where the codomain is not linearly ordered.

File: Mathlib/Analysis/Calculus/DerivativeTest.lean (hunk 2 above)
Comment (CoolRmal) [reply Mathlib/Analysis/Calculus/DerivativeTest.lean:186]: I don’t have a strong opinion on this. I can delete them if you prefer.

Comment (YaelDillies) [reply Mathlib/Analysis/Calculus/DerivativeTest.lean:186]: Let's keep them for now

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Analysis/Calculus/DerivativeTest.lean [hunk 6]
```diff
@@ -51,39 +52,239 @@ public section
 
 open Set Topology
 
+/-- If `f` is continuous at `b` and differentiable on `(a, b)`, then `f` is continuous on
+`(a, b]`. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/DerivativeTest.lean]: Throughout this PR, you use `(a, b)`, `(a, b]`, `[a, ∞)`, etc. in docstrings. Can you please switch to the Mathlib standard spelling of `Ioo a b`, `Ioc a b`, `Ici a`, etc.?

While people could probably guess what you mean, it's better to be explicit, especially since different cultures have different notation for these, and also because `(a, b)` looks like `Prod.mk a b` (and I even momentarily confused it for this and I was confused as a result).

When we have Verso in docstrings (hopefully soon!) this should improve readability even further.

**Review by j-loreaux — COMMENTED** [review]
I realize it is a lot of lemmas about elementary objects, but I think these are useful to have around for the convenience they provide.

maintainer delegate

**Comment by j-loreaux** [comment]
oops, I did the wrong thing

bors d+
